US04060526
Step 2. 1-(p-Hydroxyphenyl)-4-(2-bromoethyl)piperazine dihydrobromide
1-(p-Methoxyphenyl)-4-(2-hydroxyethyl)piperazine (10 g) was refluxed 20 hours with 100 ml 48% HBr and concentrated as far as possible on the rotovap. The mixture was filtered and washed with acetone to give a solid which was recrystallized from alcohol to give the product.

reactant | 1-(p-Methoxyphenyl)-4-(2-hydroxyethyl)piperazine | 10 g | COC1=CC=C(C=C1)N1CCN(CC1)CCO | C13H20N2O2
reactant | HBr | 100 ml | Br | BrH
product | 1-(p-Hydroxyphenyl)-4-(2-bromoethyl)piperazine dihydrobromide | Br.Br.OC1=CC=C(C=C1)N1CCN(CC1)CCBr | InChI=1S/C12H17BrN2O.2BrH/c13-5-6-14-7-9-15(10-8-14)11-1-3-12(16)4-2-11;;/h1-4,16H,5-10H2;2*1H
